US04517196
N-(Indeno[1,2-d]thiazol-2-yl)-oxamic acid
3.5 g (0.012 mole) of ethyl N-(indeno[1,2-d]thiazol-2-yl)-oxamate were suspended in a solution of 1.1 g (0.013 mole) of NaHCO3 in 200 ml of water, and the suspension was refluxed for 4 hours. The reaction mixture was filtered, the filtrate was brought to pH 1 with dilute HCl, and the precipitate was filtered off under suction and dried, giving 2.9 g (93%) of a product of melting point 229°-231° C.

reactant | ethyl N-(indeno[1,2-d]thiazol-2-yl)-oxamate | 0.012 mole, 3.5 g | S1C(N=C2C1=CC=1C=CC=CC12)NC(C(=O)OCC)=O | C14H12N2O3S
reactant | NaHCO3 | 0.013 mole, 1.1 g | C(=O)(O)[O-].[Na+]
solvent | water | 200 ml | O | H2O
product | N-(Indeno[1,2-d]thiazol-2-yl)-oxamic acid | 2.9 g, 93% | S1C(N=C2C1=CC=1C=CC=CC12)NC(C(=O)O)=O | C12H8N2O3S
